US08703941B2
Synthesis of 2-[4-chlorothieno[2,3-d]pyrimidin-5-yl]pyridine.
A 100-mL round-bottom flask was charged with 5-(pyridin-2-yl)thieno[2,3-d]pyrimidin-4-ol (2 g, 8.72 mmol, 1.00 equiv) and dioxane (30 mL). This was followed by the addition of phosphoroyl trichloride (4.0 g, 26.09 mmol, 2.99 equiv), in portions at room temperature. The resulting solution was stirred overnight at 110° C. The resulting mixture was concentrated under vacuum. The residue was then quenched by the addition of 50 mL of water/ice. The pH value of the solution was adjusted to 8 with saturated aqueous sodium bicarbonate. The solids were collected by filtration and dried under vacuum. This resulted in 1.0 g (46%) of 2-[4-chlorothieno[2,3-d]pyrimidin-5-yl]pyridine as a gray solid. MS: m/z 248 (M+H)+.

reactant | 5-(pyridin-2-yl)thieno[2,3-d]pyrimidin-4-ol | 8.72 mmol, 2 g, 1.00 equiv | N1=C(C=CC=C1)C1=CSC=2N=CN=C(C21)O | C11H7N3OS
reactant | phosphoroyl trichloride | 26.09 mmol, 4.0 g, 2.99 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-[4-chlorothieno[2,3-d]pyrimidin-5-yl]pyridine | ClC=1C2=C(N=CN1)SC=C2C2=NC=CC=C2 | C11H6ClN3S
